### PR TITLE
FLT #588

### PR DESCRIPTION
**Pull request by norbs57**
Proof follows LaTeX outline. I am new to Lean so the proof may well be unnecessarily long and verbose!

### CODE REVIEW

**Comment by pitmonticone** [comment]
Sure, no problem. 

In general, you could just comment in #588 with: 

```
withdraw #636 
```

and then comment with 

```
disclaim
```

in order to unassign the issue.

**Comment by norbs57** [comment]
withdraw #636

**Comment by norbs57** [comment]
Cheers. I noticed that there is a button "Close with comment"?

**Comment by pitmonticone** [comment]
@norbs57 the `withdraw` comment needs to be posted on the task issue discussion thread at #588.

**Comment by pitmonticone** [comment]
But don't worry, I can do it manually for you.

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 1]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
   {U : Submonoid M} (hU : IsOpen (U : Set M)) : IsOpen (U.units : Set Mˣ) :=
   (hU.preimage Units.continuous_val).inter (hU.preimage Units.continuous_coe_inv)
 
+ -- FLT#588
 lemma Submonoid.units_isCompact {M : Type*} [TopologicalSpace M] [Monoid M] [ContinuousMul M]
     [T2Space M] {U : Submonoid M} (hU : IsCompact (U : Set M)) : IsCompact (U.units : Set Mˣ) := by
-  sorry -- FLT#588
+  let φ : Mˣ → M × M := fun x ↦  (↑x, ↑x⁻¹)
+  let p : M × M → M := fun (u,v) => u * v
+  let q : M × M → M := fun (u,v) => v * u
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:15]: In Lean's type theory, deconstructing inputs like this gives you functions which contain `match`es and are generally a bit more annoying to work with. Probably
```
  let p : M × M → M := fun uv => uv.1 * uv.2
  let q : M × M → M := fun uv => uv.2 * uv.1
```
is better; this is mathematically the same but probably easier to work with in practice.

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 2]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+      intro h
+      let y : Mˣ := ⟨u, v, h.1, h.2⟩
+      use y
+      simp only [Units.inv_mk, and_self, y]
+    · -- Backward direction: (u, v) ∈ Set.range φ ⇒ (u * v = 1 ∧ v * u = 1)
+      intro h
+      obtain ⟨w, h⟩ := h
+      obtain ⟨left, right⟩ := h
+      subst left right
+      simp_all only [Units.mul_inv, Units.inv_mul, and_self, q, φ, p]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:34]:
```suggestion
  have range_φ : p ⁻¹' {1} ∩ q ⁻¹' {1} = Set.range φ := by
    ext ⟨u,v⟩ -- better to use a tactic than having to know the name of the extensionality lemma
    constructor
    · -- Forward direction: u * v = 1 ∧ v * u = 1 ⇒ (u, v) ∈ range φ
      intro h
      use ⟨u, v, h.1, h.2⟩
      rfl -- true by definition (definitional equality is important in dependent type theory)
    · -- Backward direction: (u, v) ∈ Set.range φ ⇒ (u * v = 1 ∧ v * u = 1)
      rintro ⟨w, rfl, rfl⟩ -- does your intro, obtain, subst all in one go
      simp [p, q] -- simplifier can deal with it now.
```
Note that my instinct is to avoid all names of lemmas if I can.

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 3]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+  have φUu_subset : φ '' (U.units : Set Mˣ) ⊆ Set.range φ ∩ U ×ˢ U := by
+    rintro z ⟨x, hxU, rfl⟩
+    constructor
+    · -- φ x ∈ Set.range φ
+      simp_all only [SetLike.mem_coe, Set.mem_range, Prod.mk.injEq, p, q, φ]
+      apply Exists.intro
+      · apply And.intro
+        on_goal 2 => {rfl
+        }
+        · simp_all only [p, q, φ]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:52]:
```suggestion
    · -- φ x ∈ Set.range φ
      use x
```
It's in the range of phi because it's phi(x)

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 4]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+    · -- φ x ∈ ↑U ×ˢ ↑U
+      simp_all only [SetLike.mem_coe]
+      exact hxU
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:55]:
```suggestion
    · -- φ x ∈ ↑U ×ˢ ↑U
      exact hxU
```
The `simp_all only` is only changing things up to definitional equality, and `exact` works up to definitional equality so just sees right through it.

So in fact here's a complete proof of `φUu_subset`:
```lean
  have φUu_subset : φ '' (U.units : Set Mˣ) ⊆ Set.range φ ∩ U ×ˢ U := by
    rintro z ⟨x, hxU, rfl⟩
    exact ⟨⟨x, rfl⟩, hxU⟩ 
```

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 5]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+    intro _ h
+    simp_all only [Set.image_univ, Set.mem_range, Set.mem_inter_iff]
+    obtain ⟨h1,h2⟩ := h
+    rcases h1 with ⟨a,pa⟩
+    rw[← pa]
+    apply Set.mem_image_of_mem φ
+    refine SetLike.mem_coe.mpr ?_
+    simp only [ mem_units_iff]
+    subst pa
+    simp_all only [Set.image_univ,  Set.mem_prod,  SetLike.mem_coe, and_self, φ, p, q]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:66]:
```suggestion
  have subset_φUu : Set.range φ ∩ U ×ˢ U ⊆ φ '' (U.units : Set Mˣ):= by
    rintro _ ⟨⟨a, rfl⟩, h2⟩ -- lines 57,59,60,61,65
    exact Set.mem_image_of_mem φ <| SetLike.mem_coe.mpr h2 -- lines 62,63,66
```
It's the same proof, except that I use the `rintro rfl` trick instead of `subst`. Your simp calls are not changing anything definitionally. By line 66 the goal is definitionally `h2`.

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 6]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+  have φUu_eq : φ '' (U.units : Set Mˣ) = Set.range φ ∩ U ×ˢ U := by
+    exact Eq.symm (Set.Subset.antisymm subset_φUu φUu_subset)
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:68]: `by exact` does nothing; `by` switches you from term mode into tactic mode and `exact` switches from tactic mode into term mode. Also you can use dot notation here; the type of `(Set.Subset.antisymm subset_φUu φUu_subset)` is `Eq ...` so 
```lean
  have φUu_eq : φ '' (U.units : Set Mˣ) = Set.range φ ∩ U ×ˢ U :=
    (Set.Subset.antisymm subset_φUu φUu_subset).symm
```
works.

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 7]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+
+  have φUu_compact : IsCompact (φ '' (U.units : Set Mˣ)) := by
+    rw[φUu_eq]
+    apply IsCompact.inter_left isCompacthUU closed_range_φ
+
+  let f :  M × M → M × Mᵐᵒᵖ := Prod.map id MulOpposite.op
+  have continuous_f : Continuous f:= by
+    refine Continuous.prodMap ?_ ?_
+    exact continuous_id
+    exact MulOpposite.continuous_op
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:78]:
```suggestion
  have continuous_f : Continuous f:= by continuity
```

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 8]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+  have f_φ_embedProduct: f ∘ φ = Units.embedProduct M  := by
+    ext; simp [f,φ]; simp [f,φ]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:80]:
```suggestion
    ext <;> simp [f,φ]
```
The `<;>` combinator means "do the next tactic on all the goals"

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 9]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+  have continuous_φ: Continuous φ := by
+    rw [continuous_prodMk]
+    constructor
+    · exact Units.continuous_val
+    · exact Units.continuous_coe_inv
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:85]:
```suggestion
  have continuous_φ: Continuous φ := by fun_prop
```
`continuity` and `fun_prop` are my two go-to tactics for proving continuity of functions. I am surprised `fun_prop` doesn't work on the previous goal, it is more powerful than `continuity` usually, but it seems that `continuous_id` is not tagged `@[fun_prop]` for some reason.

File: FLT/Mathlib/Topology/Algebra/Group/Units.lean [hunk 10]
```diff
@@ -7,9 +7,88 @@ lemma Submonoid.units_isOpen {M : Type*} [TopologicalSpace M] [Monoid M]
...
+  have isEmbedding_φ : Topology.IsEmbedding φ := by
+    apply Topology.IsEmbedding.of_comp continuous_φ continuous_f
+    simp only [f_φ_embedProduct]
+    exact Units.isEmbedding_embedProduct
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Group/Units.lean:89]:
```suggestion
  have isEmbedding_φ : Topology.IsEmbedding φ :=
    .of_comp continuous_φ continuous_f Units.isEmbedding_embedProduct
```
Again you don't have to go into tactic mode and the `simp only` isn't changing anything definitionally.

**Review by kbuzzard — COMMENTED** [review]
Thanks a lot for your contribution! I hope my review teaches you some tricks.
